US06448268B1
1-(3-Chloro-4-fluorobenzoyl)-4-fluoropiperidine-4-carbaldehyde (3; X=F)
2.48 g of pyridine-SO3 complex (15.5 mmol) are added in a single portion to a solution of 1.5 g of 1-(3-Chloro-4-fluorobenzoyl)-4-fluoro-4-piperidine-methanol (5.18 mmol), 2.16 ml of triethylamine (15.5 mmol) and 15 ml of anhydrous DMSO. After stirring for 3 hours at room temperature, the yellow solution obtained is poured into an ice-water mixture and extracted twice with ethyl acetate. The organic phases are washed with aqueous 5% citric acid solution and then with salt water, dried over MgSO4 and filtered and the solvent is removed under vacuum. 1.49 g (quantitative yield) of a yellow oil are obtained, this product being used without further purification in the following step.

reactant | 1-(3-Chloro-4-fluorobenzoyl)-4-fluoro-4-piperidine-methanol | 5.18 mmol, 1.5 g | ClC=1C=C(C(=O)N2CCC(CC2)(CO)F)C=CC1F | C13H14ClF2NO2
reactant | triethylamine | 15.5 mmol, 2.16 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | 1-(3-Chloro-4-fluorobenzoyl)-4-fluoropiperidine-4-carbaldehyde | 1.49 g, quantitative yield | ClC=1C=C(C(=O)N2CCC(CC2)(C=O)F)C=CC1F | C13H12ClF2NO2
